US07658938B2
Effect of Enhancers on the Systemic Availability of Leuprolide after Intraduodenal Administration in Dogs
Beagle dogs (10-15 Kg) were sedated with medetomidine (80 μg/kg) and an endoscope was inserted via the mouth, oesophagus and stomach into the duodenum. The test solutions (10 ml), comprising leuprolide acetate (Mallinckrodt Inc, St. Louis, Mo.) with or without enhancer reconstituted in deionised water were administered intraduodenally via the endoscope. Following removal of the endoscope, sedation was reversed using atipamezole (400 μg/kg). The parenteral reference solutions comprising 1 mg Leuprolide reconstituted in 0.5 ml sterile water were administered intravenously and subcutaneously respectively.

reactant | medetomidine | CC1=CC=CC(=C1C)C(C)C2=CNC=N2 | C13H16N2
reactant | leuprolide acetate | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6.CC(=O)O
solvent | water | O | H2O
product | Leuprolide | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6 | C59H84N16O12
